US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-methyl-7-methylamino-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Pyridine (500 mg) and a 40% aqueous solution (300 mg) of methylamine were added to 1-(5-amino-2,4-difluorophenyl)-7-fluoro-8-methyl-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (220 mg), and the mixture was stirred for 3 hours at 40° C. and for 2 days at room temperature. Diethyl ether was added to the reaction mixture, followed by stirring. A supernatant liquid was removed, and acetic acid (3 drops) was added to the residue, followed by stirring. Solids deposited were recrystallized from ethanol and N,N-dimethylformamide to obtain the title compound (190 mg) as a reddish brown powder.

reactant | Pyridine | 500 mg | N1=CC=CC=C1 | C5H5N
reactant | methylamine | CN | CH5N
reactant | 1-(5-amino-2,4-difluorophenyl)-7-fluoro-8-methyl-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 220 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)F)[N+](=O)[O-])=O)C(=O)O)F)F | C17H10F3N3O5
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 1-(5-Amino-2,4-difluorophenyl)-8-methyl-7-methylamino-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 190 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)NC)[N+](=O)[O-])=O)C(=O)O)F)F | C18H14F2N4O5
